US07947689B2
1-[5-(6-Chloro-pyrazolo[1,5-a]pyrimidine-2-carbonyl)-4-methyl-4,5,6,7-tetrahydropyrrolo[3,2-c]pyridin-1-yl]-ethanone
(6-Chloro-pyrazolo[1,5-a]pyrimidin-2-yl)-(4-methyl-1,4,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-5-yl)-methanone is reacted with acetic acid to provide the title compound.

reactant | (6-Chloro-pyrazolo[1,5-a]pyrimidin-2-yl)-(4-methyl-1,4,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-5-yl)-methanone | ClC=1C=NC=2N(C1)N=C(C2)C(=O)N2C(C1=C(CC2)NC=C1)C | C15H14ClN5O
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | 1-[5-(6-Chloro-pyrazolo[1,5-a]pyrimidine-2-carbonyl)-4-methyl-4,5,6,7-tetrahydropyrrolo[3,2-c]pyridin-1-yl]-ethanone | ClC=1C=NC=2N(C1)N=C(C2)C(=O)N2C(C1=C(CC2)N(C=C1)C(C)=O)C | C17H16ClN5O2
